US06358980B1
4-(4-But-2-ynyloxybenzenesulfonyl)-1-[(2,2,5-trimethyl-1,3-dioxan-5-yl)carbonyl]-4-piperidinecarboxylic acid was prepared following the procedure of Example 40 (step 5). Starting from Methyl 4-(4-but-2-ynyloxybenzenesulfonyl)-1-[(2,2,5-trimethyl-1,3-dioxan-5-yl)carbonyl]-4-piperidinecarboxylate (335 mg, 0.66 mmol) in 4 ml of tetrahydrofuran:methanol (1:1), and 1N sodium hydroxide (1.3 ml, 1.3 mmol) to obtain 315 mg (97%) of the acid. HR-MS: m/z Calculated for C24H31NO8S 494.1843; Found 494.1835.

reactant | Methyl 4-(4-but-2-ynyloxybenzenesulfonyl)-1-[(2,2,5-trimethyl-1,3-dioxan-5-yl)carbonyl]-4-piperidinecarboxylate | 0.66 mmol, 335 mg | C(C#CC)OC1=CC=C(C=C1)S(=O)(=O)C1(CCN(CC1)C(=O)C1(COC(OC1)(C)C)C)C(=O)OC | C25H33NO8S
reactant | sodium hydroxide | 1.3 mmol, 1N, 1.3 ml | [OH-].[Na+]
solvent | tetrahydrofuran methanol | 4 ml | O1CCCC1.CO
product | 4-(4-But-2-ynyloxybenzenesulfonyl)-1-[(2,2,5-trimethyl-1,3-dioxan-5-yl)carbonyl]-4-piperidinecarboxylic acid | C(C#CC)OC1=CC=C(C=C1)S(=O)(=O)C1(CCN(CC1)C(=O)C1(COC(OC1)(C)C)C)C(=O)O | C24H31NO8S
